### PR TITLE
[Merged by Bors] - feat(FieldTheory/*): prove coprimality of polynomials in terms of roots

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Multramate** [comment]
Note that `Polynomial.isCoprime_iff_aeval_ne_zero` and `Polynomial.isCoprime_iff_aeval_ne_zero_of_isAlgClosed` are essentially saying the same thing: two polynomials are coprime iff they have no common roots in any algebraic extension. Note also that the typeclasses `[CommRing A] [IsDomain A] [Algebra K A]` in the former can be replaced with the weaker assumptions `[Nontrivial A] [Semiring A] [Algebra F A]`, but the stronger assumption might be more usable. They should all be equivalent, but for some reason I wasn't able to prove one from the other directly, so any help is very much appreciated.

File: Mathlib/Algebra/Polynomial/RingDivision.lean [hunk 1]
```diff
@@ -750,6 +750,13 @@ theorem comp_eq_zero_iff : p.comp q = 0 ↔ p = 0 ∨ p.eval (q.coeff 0) = 0 ∧
       Or.rec (fun h => by rw [h, zero_comp]) (fun h => by rw [h.2, comp_C, h.1, C_0]) h
 #align polynomial.comp_eq_zero_iff Polynomial.comp_eq_zero_iff
 
+lemma aeval_ne_zero_of_isCoprime [CommSemiring R] [Nontrivial S] [Semiring S] [Algebra R S]
+    {p q : R[X]} (h : IsCoprime p q) (s : S) : ¬(aeval s p = 0 ∧ aeval s q = 0) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/RingDivision.lean:754]: Stating this (and the other lemmas) with an `Or` feels more reasonable to me; not-least because this spelling isn't simp-normal.

Comment (Multramate) [reply Mathlib/Algebra/Polynomial/RingDivision.lean:754]: I'll change to that, but will keep the naming. Note that this just adds a layer of `not_and_or` everywhere.

File: Mathlib/Algebra/Polynomial/RingDivision.lean [hunk 2]
```diff
@@ -750,6 +750,13 @@ theorem comp_eq_zero_iff : p.comp q = 0 ↔ p = 0 ∨ p.eval (q.coeff 0) = 0 ∧
       Or.rec (fun h => by rw [h, zero_comp]) (fun h => by rw [h.2, comp_C, h.1, C_0]) h
 #align polynomial.comp_eq_zero_iff Polynomial.comp_eq_zero_iff
 
+lemma aeval_ne_zero_of_isCoprime [CommSemiring R] [Nontrivial S] [Semiring S] [Algebra R S]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/RingDivision.lean:753]: What about a name that allows dot notation?

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 3]
```diff
@@ -208,6 +208,17 @@ theorem IntermediateField.eq_bot_of_isAlgClosed_of_isAlgebraic {k K : Type*} [Fi
   obtain ⟨y, hy⟩ := IsAlgClosed.algebraMap_surjective_of_isIntegral (k := k) (⟨x, hx⟩ : L)
   exact ⟨y, congr_arg (algebraMap L K) hy⟩
 
+lemma Polynomial.isCoprime_iff_aeval_ne_zero_of_isAlgClosed (K : Type v) [Field K] [IsAlgClosed K]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean:211]: Can you generalize this without assuming `K` to be algebraically closed but taking `a` in an algebraic closure? (We can also keep this version of course)

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:211]: You mean something like this?
```
lemma Polynomial.isCoprime_iff_aeval_ne_zero_of_isAlgClosure (K : Type v) [Field K] [Algebra k K] [IsAlgClosure k K]
    (p q : k[X]) : IsCoprime p q ↔ ∀ a : K, aeval a p ≠ 0 ∨ aeval a q ≠ 0 :=
  @Polynomial.isCoprime_iff_aeval_ne_zero_of_isAlgClosed _ _ _ _ (IsAlgClosure.alg_closed k) _ _ _
```
That seems to be a specialisation rather than a generalisation?

Unless you mean the fixed `AlgebraicClosure`?

File: Mathlib/Algebra/Polynomial/RingDivision.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/Algebra/Polynomial/RingDivision.lean:753]: Do you think `IsCoprime.aeval_ne_zero` is better than `Polynomial.aeval_ne_zero_of_isCoprime`?

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:211]: How are you avoiding that coprimality is preserved by field extensions?

File: Mathlib/Algebra/Polynomial/RingDivision.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/Polynomial/RingDivision.lean:753]: Mmm, you're right, we also want `Polynomial`. Let's keep as it is then.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:211]: I'm not quite sure what you mean. We also have `Polynomial.isCoprime_iff_aeval_ne_zero` which is the version that only talks about field extensions, but I don't know how to make the proof work for algebraic closures.

Comment (riccardobrasca) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:211]: I am sorry, you're lemma already says what I wanted.
